US04496739
To a suspension of dimethyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate (10.0 g) in a mixture of 0.1m phosphate buffer (pH 8.0, 900 ml) and methanol (100 ml) was added Pig Liver Esterase (manufactured by Sigma Lab., 32000 units, 200 mg). The mixture was stirred at 30° C. for 42 hours while the pH was adjusted to around 8.0 with 1 N aqueous sodium hydroxide solution. Chloroform (500 ml) was added to the mixture. Then, the mixture was adjusted to pH 2 with diluted sulfuric acid. The aqueous and chloroform layers were separated. The chloroform layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give (4S,5R)-1,3-dibenzyl-5-methoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid (8.80 g). M.P., 145°-147° C. [α]36520 =-25.3° (c=1, DMF).

reactant | dimethyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate | 10.0 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OC)C(=O)OC)CC1=CC=CC=C1)=O | C21H22N2O5
reactant | phosphate | 900 ml, pH 8.0 | P(=O)([O-])([O-])[O-]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | Chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 100 ml | CO | CH4O
product | (4S,5R)-1,3-dibenzyl-5-methoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid | 8.80 g | C(C1=CC=CC=C1)N1C(N([C@@H]([C@@H]1C(=O)OC)C(=O)O)CC1=CC=CC=C1)=O | C20H20N2O5
